US05756510
3-(4-carboxybenzyloxy)benzamide (Compound NU1052)
To 3-(4-carboxymethylbenzyloxy)benzamide (Compound NU1041) (0.03 g; 0.1 mmol) was added methanol (3 ml) and aqueous sodium hydroxide (1M; 3 ml). This was warmed to 40° C., and the reaction monitored. Upon the disappearance of the starting material the solution was acidified (aqueous HCl dropwise), and extracted into ethyl acetate (3×30 ml). The organics were pooled, dried over magnesium sulphate, and the solvent removed under reduced pressure. This yielded a white crystalline solid.

reactant | 3-(4-carboxymethylbenzyloxy)benzamide | 0.1 mmol, 0.03 g | C(=O)(O)CC1=CC=C(COC=2C=C(C(=O)N)C=CC2)C=C1 | C16H15NO4
reactant | sodium hydroxide | 1M, 3 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
reactant | methanol | 3 ml | CO | CH4O
product | 3-(4-carboxybenzyloxy)benzamide | C(=O)(O)C1=CC=C(COC=2C=C(C(=O)N)C=CC2)C=C1 | C15H13NO4
